US06313116B1
4Methoxy-2-(morpholin-4-yl)-benzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide
Starting with 4-methoxy-2-(morpholin-4-yl)benzothiazole-7-carboxylic acid (0.13 g) oxalyl chloride (0.10 ml), dichloromethane (10 ml) and dimethylformamide (1 drop), followed by 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (0.11 g), sodium hexamethyldisilylamine (1.0M in tetrahydrofuran, 0.88 ml) and dichloromethane (10 ml). Purification by flash chromatography (eluent ethyl acetate) yielded the title compound as an off-white solid (0.02 g). TLC Rf 0.45 (ethyl acetate); Mpt 299-300° C.

reactant | 4-methoxy-2-(morpholin-4-yl)benzothiazole-7-carboxylic acid | 0.10 ml, 0.13 g | COC1=CC=C(C2=C1N=C(S2)N2CCOCC2)C(=O)O | C13H14N2O4S
reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 0.11 g | NC1=C(C=NN1C)C#N | C5H6N4
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4Methoxy-2-(morpholin-4-yl)-benzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide | 0.02 g | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)N2CCOCC2)OC | C18H18N6O3S
